Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tetracycline / Penicillins / Statins-Hmg-Coa Reductase 
Inhibitors / Bactrim / lisinopril / prednisone / Sulfa 
(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Dyspnea, near syncope
 
Major Surgical or Invasive Procedure:
Cath ___
New ISR of anomalous LCX coming from the RCA, s/p successful 
POBA with 2.5 mm cutting balloon and 2.5 mm NC balloons at >20 
ATM.

 
History of Present Illness:
___ is an ___ M with history 
significant
for CAD and NSTEMI s/p DES ___ on plavix, HFrEF (EF 55%),
provoked PE in ___, and PVD with h/o bilateral DVT who presents
with shortness of breath and multiple episodes of near syncope. 

Per history obtained in the ED, per wife at bedside, patient has
had multiple near syncopal events over the last ___ days. 
Patient
does not recall these. No head strike per wife. This morning,
patient at work and was short of breath. Has also been having
progressive lower extremity swelling for the last few days.
Endorses cough. No fevers, chills, nausea, vomiting, diarrhea,
chest pain, abdominal pain. Patient takes torsemide daily.

In the ED, initial vitals were:
Today 10:10 T 98.4 HR 74 BP 175/85 RR 20 SpO2 89% RA

Exam was notable for:
- Breathing comfortably on 4 L. Bilateral rales to mid chest.
Bilateral lower extremity swelling. No significant JVD. Regular
rate and rhythm.

Labs were notable for: 
WBC: 10.7* 
Hgb: 11.1* 
Creat: 2.4* 
cTropnT: 0.19* 
proBNP: 5771* 

Studies were notable for: 
- CXR: Mild cardiac enlargement, congestion with interstitial
pulmonary edema.  Trace right pleural effusion.
- EKG: Sinus rhythm with nonspecific intraventricular conduction
delay, nonspecific repol abnormality, lateral leads

The patient was given:
- 80 mg of IV Lasix
- Levofloxacin (anaphylactic allergy to penicillin) for PNA

On the floor, wife, son and patient endorsed the above history. 
Wife notes that he can become winded at baseline, "while tying
shoes."  She notes that the near syncopal episodes occurred when
he was walking up 5 flights of stairs on ___.  They caught
him both times; he never hit anything, denies head strike.  On
___, she noted a great deal of wheezing.  On ___, they
drove about 15 hours from ___ to ___, and she 
noted
continued wheezing.  She also endorsed increased leg swelling. 
She noted that he was able to walk a distance of about half of
the hospital room, before he "went down".  Each episode lasted 
no
more than 1 to 2 minutes.  This has happened previously, 
"similar
to his last admission."  Patient does not recall syncopal
episodes.

He states that he feels much better than this morning, "less
weak."  Denies shortness of breath, chest pain, pain anywhere
else, lightheadedness, dizziness.  Endorses a bowel movement 
this
morning, usually goes twice a day with medications.  Endorses
normal urination.  Endorses rash in groin and under her right
breast for the past week, for which she has been taking an
unknown cream that was given to him by a physician in ___. 
States that he takes medications as prescribed; his wife knows
his medications.

Will admit for VQ scan as an inpatient. Patient is 
anticoagulated
on Plavix. Will not additionally heparinize at this time. Most
likely etiology of sx is CHF exacerbation. MB is normal.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- IDDM 2 complicated by PVD and neuropathy  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY 
-CAD with NSTEMI ___ (LHC ___: 100% RCA with L-R
collaterals, 80% anomalous LCx [from RCA]; s/p POBA to anomalous
LCx) 
-ICM (EF 50%) with regional WMA  
3. OTHER PAST MEDICAL HISTORY 
- CKD stage 3
- Iron deficiency anemia secondary to chronic GI blood loss
- Colon adenocarcinoma diagnosed ___ s/p lap extended R
colectomy
- Prior CVA in ___ (small, left parietal, presented with
aphasia and disorientation); TIA; L carotid stent in ___
- PVD s/p R common iliac stent ___ R CFA endarterectomy and
saphenous vein patch angioplasty and R CFA to popliteal artery
bypass; L carotid stent in ___ L femoral and profunda
endarterectomy; L CIA stent placement x 2, L fem-AT bypass with
PTFE graft and L fourth toe ulceration/cellulitis s/p amputation
- PE ___ s/p 6 months of Lovenox (in setting of active
malignancy)
- Oral cancers s/p resection x 2 at Mass Eye and Ear
- History of contrast-induced acute kidney injury
- History of retroperitoneal bleeding
- History of GI bleeding 
- Herpes keratitis
 
Social History:
___
___ History:
Sister and father died of colon cancer; diabetes; cardiac 
history
with MIs throughout family; Alport syndrome in nephews 
(brother's sons)
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: ___ Temp: 97.8 PO BP: 161/77 HR: 74 RR: 18 O2
sat: 98% O2 delivery: 4L 
GENERAL: Alert and interactive Caucasian male, appears stated
age, conversational and appropriate. In no acute distress.  Wife
and son, Chip, at bedside.
HEENT: PERRL. Sclera anicteric and without injection. MMM. 
Actinic keratoses face and into hairline.  Healing scab by left
ear, covered in small bandage.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. Diffuse wheezes, no
rhonchi, crackles, or rales. NC in place. 
BACK: No tenderness to palpation over spinal processes.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis. 2+ pitting edema to ankles
b/l, 1+ pitting edema to mid-shins. Pulses Radial 2+ 
bilaterally.
SKIN: Warm.  Diffuse actinic keratoses, ecchymoses (per patient,
chronic).  Beefy red rash in bilateral inguinal folds, left fold
with white exudate, and similar rash with satellite spots under
right breast.
NEUROLOGIC: Alert, oriented to family and hospitalization with
appropriate questions. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength in ___, with good grip. Full ROM 
at
hips. Grossly normal sensation.

DISCHARGE EXAM:
===============
___ 0506 BP: 155/62 HR: 69 RR: 18 O2 sat: 86 on RA, 2LNC
applied up to 95% 
24 HR Data (last updated ___ @ 741)
    Temp: 97.6 (Tm 98.2), BP: 130/64 (115-155/55-77), HR: 67
(67-80), RR: 16 (___), O2 sat: 97% (86 on RA, 2LNC applied up
to 95%-97), O2 delivery: 2L, Wt: 185.2 lb/84.01 kg  

GEN: Well-appearing, NAD, sitting comfortably in chair
NECK: no JVD
CV: RRR. no rubs, murmurs, or gallops. normal S1 S2. 
PULM: trace bibasilar crackles on the L, no wheezes or rhonchi 
ABD: soft, mildly distended at baseline, nontender. normal bowel
sounds. 
EXT: No edema. warm and well perfused.
PSYCH: appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:50AM BLOOD WBC-10.7* RBC-4.04* Hgb-11.1* Hct-36.2* 
MCV-90 MCH-27.5 MCHC-30.7* RDW-15.3 RDWSD-50.5* Plt ___
___ 11:50AM BLOOD Neuts-74.3* Lymphs-12.8* Monos-6.4 
Eos-5.8 Baso-0.3 Im ___ AbsNeut-7.97* AbsLymp-1.37 
AbsMono-0.69 AbsEos-0.62* AbsBaso-0.03
___ 11:50AM BLOOD Glucose-98 UreaN-43* Creat-2.4* Na-141 
K-5.0 Cl-99 HCO3-24 AnGap-18
___ 06:07AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.3
___ 06:07AM BLOOD ___ PTT-28.8 ___
___ 06:07AM BLOOD ALT-14 AST-14 TotBili-0.4
___ 11:50AM BLOOD cTropnT-0.19*
___ 06:12PM BLOOD cTropnT-0.16*
___ 11:50AM BLOOD CK-MB-5 proBNP-5771*
___ 06:12PM BLOOD CK-MB-4
___ 11:50AM BLOOD CK(CPK)-135
___ 06:12PM BLOOD CK(CPK)-124
___ 11:50AM BLOOD ___ 11:57AM BLOOD Lactate-1.2

PERTINENT IMAGING:
==================
___ CXR:
Mild cardiac enlargement, congestion with interstitial pulmonary 
edema.  Trace right pleural effusion.

___ Head CT, noncon:
No acute intracranial process.  Chronic infarcts to the 
bilateral frontal
lobes and left caudate.

___ TTE:
Compared to prior on ___, EF is reduced at 37%. Mild 
symmetric left ventricular hypertrophy with moderate regional 
systolic dysfunction most consistent with multivessel coronary 
artery disease. Moderate pulmonary
hypertension. Moderate mitral regurgitation.

DISCHARGE LABS:
===============
___ 06:21AM BLOOD WBC-10.1* RBC-3.87* Hgb-10.4* Hct-33.8* 
MCV-87 MCH-26.9 MCHC-30.8* RDW-15.5 RDWSD-48.4* Plt ___
___ 06:21AM BLOOD Neuts-67.3 Lymphs-17.9* Monos-7.4 Eos-6.6 
Baso-0.4 Im ___ AbsNeut-6.78* AbsLymp-1.80 AbsMono-0.75 
AbsEos-0.67* AbsBaso-0.04
___ 06:21AM BLOOD Plt ___
___ 06:21AM BLOOD Glucose-90 UreaN-49* Creat-2.5* Na-138 
K-3.7 Cl-96 HCO3-27 AnGap-15
___ 06:21AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.5
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[] Patient with newly reduced EF of 37% with wall motion 
abnormalities. Possible EF may recover. Will need monitoring and 
titration of HF medications as appropriate. Discharged on PO 
torsemide 40mg daily (developed ___ with Torsemide 40mg PO BID)
[] Recheck BMP at first follow up: Discharge Cr 2.5
[] Follow up with NP in clinic on ___
[] Unclear nature of falls. No further workup right now but 
monitor and consider further workup if this continues.

Weight at discharge: 84.01 kg (185.21 lb) (Thought to be dry 
weight)

BRIEF SUMMARY:
==============
Mr. ___ is a ___ yoM with PMH of CAD and NSTEMI s/p DES ___ 
on plavix, HFrEF (EF 37%), provoked PE in ___, and PVD with hx 
of bilateral DVT who presents with ___ days of SOB and multiple 
episodes of near syncope, found to have heart failure 
exacerbation with new reduced ejection fraction on admission 
TTE.

ACUTE ISSUES:
=============
# SHORTNESS OF BREATH 
# HFrEF (EF 37%) 
# T WAVE DEPRESSIONS 
On admission, he required 4L O2. Exam notable for b/l lower lobe 
crackles, diffuse wheezes, and ___ edema. Labs notable for 
elevated BNP and elevated d-dimer. Initial concern greatest for 
CHF exacerbation vs. PE, though he was on dual anti platelet
therapy and his d-dimer was lower than previous with previous PE 
work up
negative and Well's score of 1.5, making PE less likely than CHF 
exacerbation. low concern for NSTEMI given known history of 
elevated troponin iso CKD and normal CK-MB. TTE ___ showed 
reduced ejection fraction to 37% (55% in ___, moderate MR, 
and hypokinesis of the inferior wall consistent with CHF 
exacerbation. He underwent coronary angiography which revealed 
ISR of the circumflex stent and this was ballooned. Following 
this he was diuresed. Vasodilator therapy was increased. We 
recorded daily weights and I/Os, tracked lytes BID, and 
uptitrated IV Lasix BID to effect. At times he required as much 
as 120 mg IV Lasix. We continued home clopidogrel 75 mg and 
rosuvastatin 20 mg, and gave nebs PRN for wheezing. His 
creatinine rose and diuretics were reduced. At discharge his 
creatinine was down-trending.

# Near syncope 
# h/o TIA 
Patient does not recall these episodes of near syncope. Per 
wife,
he has been appearing more "sick" and weaker than previous. No
prodrome before falls, and recovery within seconds. Likely
mechanical falls iso dyspnea and generalized weakness vs.
cardiogenic, as patient describes feeling of "legs buckling" 
without prodrome. NCHCT ___ w/o acute process. We monitored his 
cardiac function on telemetry. We reviewed his risk factors for 
fall, and found that he is at high risk of falls given his 
peripheral neuropathy, multiple BP meds, positive orthostatic 
vitals on admission (though he is asymptomatic during 
assessment). He uses a cane and walker at home and has a chair 
lift in his house. He worked with ___ during the admission to 
improve his mobility.

CHRONIC ISSUES:
===============
# HTN
- continue home BP meds: hydral, metop, torsemide, and 
isosorbide mononitrate

# CKD Stage III, baseline Cr 1.8 
- Trend Cr and lytes

# Type 2 Diabetes Mellitus complicated by PVD and neuropathy  
___ A1c 5.3%
- continue home regimen 
     - insulin detemir U-100 40 units sc daily at 8:00PM
     - insulin lispro [Humalog KwikPen Insulin] 
          - 6u with breakfast, 8u with lunch, 10u with dinner
- ISS, FSBG 
- home gabapentin 600 mg tablet TID (neuropathy)

# GERD
- home pantoprazole 40 mg tablet BID 

# Iron deficiency anemia secondary to chronic GI blood loss
- Trend and monitor CBC
- cont home Ferrous Sulfate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
3. Gabapentin 600 mg PO TID 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Pantoprazole 40 mg PO Q12H 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. Senna 8.6 mg PO BID:PRN constipation 
8. HydrALAZINE 25 mg PO Q8H 
9. Ferrous Sulfate 325 mg PO TID 
10. Torsemide 40 mg PO BID 
11. Isosorbide Mononitrate 30 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. ergocalciferol (vitamin D2) 50,000 unit oral 1X/WEEK 
14. Detemir 40 Units Dinner
Humalog 6 Units Breakfast
Humalog 8 Units Lunch
Humalog 10 Units Dinner

 
Discharge Medications:
1.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth Every night Disp 
#*90 Capsule Refills:*0 
2.  Gabapentin 200 mg PO TID  
3.  HydrALAZINE 75 mg PO Q8H 
RX *hydralazine 25 mg 3 tablet(s) by mouth every eight (8) hours 
Disp #*90 Tablet Refills:*0 
4.  Detemir 40 Units Dinner
Humalog 6 Units Breakfast
Humalog 8 Units Lunch
Humalog 10 Units Dinner 
5.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth once a day 
Disp #*90 Tablet Refills:*0 
6.  Torsemide 40 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Clopidogrel 75 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

10.  ergocalciferol (vitamin D2) 50,000 unit oral 1X/WEEK  
11.  Ferrous Sulfate 325 mg PO TID  
12.  Metoprolol Succinate XL 12.5 mg PO DAILY  
13.  Pantoprazole 40 mg PO Q12H  
14.  Rosuvastatin Calcium 20 mg PO QPM  
15.  Senna 8.6 mg PO BID:PRN constipation  
16.Outpatient Lab Work
ICD-9: 428.0

Lab: Basic Metabolic Panel ___

Dr. ___/ Fax: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Coronary artery disease with proximal circum stent stenosis, now 
s/p POBA
HfrEF with EF of 37%
Fall of unclear origin, possibly mechanical

SECONDARY DIAGNOSIS
===================
Hypertension
Chronic kidney disease stage III
Diabetes mellitus, type II, complicated by peripheral neuropathy
Gastroesophageal reflux disease
Iron deficiency anemia secondary to chronic gastrointestinal 
blood loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___! 

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
===================================
- You came to the hospital because you were have a tough time 
breathing. We brought you into the hospital because we were 
concerned that your heart wasn't pumping your blood very well 
(called a heart failure exacerbation), causing your shortness of 
breath from a build-up of fluid.
- You also almost fell

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL? 
=========================================
- We did a number of lab tests to find out why you weren't 
breathing well. This included an ultrasound of your heart, which 
confirmed that your heart was not pumping blood very well and 
that you were having a heart failure exacerbation.
- You were given an IV form of your water pill (lasix) to 
urinate the build-up of fluid and help your heart pump better.
- We looked at a lot of factors surrounding your fall, including 
your medications, your safety at home, and your medical issues 
to see what could be adjusted to prevent a fall in the future.
- We did a procedure to open up a blockage of a blood vessel to 
your heart

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Weigh yourself every morning, and call your doctor if your 
weight goes up more than 3 lbs.
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
- Please go to the emergency room if you have any new chest pain 


Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team  
 
Followup Instructions:
___